Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with a history of CVA with residual bilateral lower 
extremity weakness who presented with chest pain and is 
transferred with concern for NSTEMI. He developed acute onset 
pressure-like substernal chest pain without radiation the 
evening of ___ and presented to CHA. His symptoms were 
accompanied by nausea and shortness of breath. This occurred at 
rest. There is an EKG demonstrating inferolateral ST depressions 
and troponin-I increasing from 0.3 to 0.8. Upon arrival to ___ 
ED, he was chest pain free. He notes that he had similar 
symptoms ___ years ago that were not as severe and occurred in the 
setting of exertion. He was given full dose aspirin at the 
outside hospital.  

- In the ED, initial VS: T 97.6 HR 89 BP 126/62 RR 14 O2 98% RA  

- Labs were notable for: WBC 10.1 Hgb 14.7 Plt 250, Trop 0.07  
- Studies were notable for:  EKG here with sinus tachycardia, 
prominent T waves in anterior leads, no evidence of ischemia  
- The patient was given: none

On arrival to the floor, patient is doing well. Reports no chest 
pain, SOB, palpitations, dizziness, abd pain, nausea, vomiting, 
diarrhea, dysuria, cough, sore throat, fevers, sick contacts, 
changes to his routine. 
 
Past Medical History:
?CVA with residual lower extremity weakness  
 
Social History:
___
Family History:
No family history of early coronary disease, cardiomyopathy, or 
sudden death
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T98.5, BP 117/77, HR 92, RR 17, PO2 97 Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 
 
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Normal sensation.  

DISCHARGE EXAM
===============
24 HR Data (last updated ___ @ 718)
    Temp: 98.0 (Tm 99.2), BP: 110/73 (106-121/71-82), HR: 73
(73-96), RR: 16 (___), O2 sat: 97% (96-99), O2 delivery: Ra    

GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 


NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:07AM BLOOD WBC-10.1* RBC-4.92 Hgb-14.7 Hct-44.9 
MCV-91 MCH-29.9 MCHC-32.7 RDW-12.3 RDWSD-41.1 Plt ___
___ 05:07AM BLOOD Neuts-58.9 ___ Monos-12.9 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-5.96 AbsLymp-2.64 AbsMono-1.30* 
AbsEos-0.13 AbsBaso-0.04
___ 05:09AM BLOOD ___ PTT-30.6 ___
___ 05:07AM BLOOD Glucose-103* UreaN-11 Creat-0.9 Na-137 
K-4.4 Cl-102 HCO3-22 AnGap-13
___ 05:52AM BLOOD ALT-47* AST-32 AlkPhos-77 TotBili-0.6
___ 05:52AM BLOOD Calcium-9.7 Phos-5.1* Mg-2.4

OTHER PERTINENT LABS/MICRO
=========================
___ 05:07AM BLOOD CK-MB-7
___ 05:07AM BLOOD cTropnT-0.07*
___ 01:13PM BLOOD CK-MB-6 cTropnT-0.04*

___ 01:13PM BLOOD Cholest-167
___ 01:13PM BLOOD Triglyc-75 HDL-39* CHOL/HD-4.3 
LDLcalc-113

___ 05:12AM BLOOD %HbA1c-5.4 eAG-108

IMAGING
=======
TTE ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with inferior hypokinesis 
(see schematic). Quantitative biplane left ventricular ejection 
fraction is 41 % (normal 54-73%). Left ventricular cardiac index 
is low normal (2.0-2.5 L/ min/m2). There is no resting left 
ventricular outflow tract gradient. No ventricular septal defect 
is seen. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg). Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is a trivial 
pericardial effusion.

CTA CORONARIES ___
Image Quality: The overall quality of the CT angiographic 
examination is good
and is limited by cardiac motion artifacts.
 
AGATSTON SCORE: The total (aggregate) calcium score using the AJ 
130 method is
0. Total volume score of 0.
0% of similar patients have less coronary artery calcium.
 
Individual major vessel AJ 130 scores are: LM: -; LAD: 0; LCX: 
0; RCA: 0.
 
CORONARY CTA: Dominance of the coronary artery system: left with 
normal
origins and course.
 
Left Main: The left main is a normal caliber vessel which gives 
rise to the
LAD and circumflex arteries. The left main has no stenosis with 
no plaque.
There is a short-segment of superficial myocardial bridging of 
the proximal
LAD.
 
Left Anterior Descending Artery: has no stenosis with no plaque.
LAD branches:
- D1: has no stenosis with no plaque.
- D2: has no stenosis with no plaque.
 
Left Circumflex Artery: has no stenosis with no plaque.
LCX branches:
- OM1: has no stenosis with no plaque.
- OM2: has no stenosis with no plaque.
 
Right Coronary Artery: The RCA territory is small in caliber and 
not well
assessed, an expected finding in the setting of left dominant 
coronary
anatomy.
 
CARDIAC MORPHOLOGY: The right atrium is normal. The right 
ventricle is normal.
The left atrium is normal. The left ventricle is normal. The 
aortic valve is
tricuspid with normal leaflets. No mitral calcifications are 
appreciated.
 
EXTRACARDIAC FINDINGS:
 
No mediastinal or hilar lymphadenopathy within the 
field-of-view. Anterior
mediastinal soft tissue in a patient of this age likely 
represents thymic
tissue. There is bibasilar atelectasis. The central airways are 
patent. No
pleural effusion or parenchymal opacity. Visualized upper 
abdomen is normal.
 
IMPRESSION AND RECOMMENDATIONS: This study was considered 
diagnostic for
evaluation of the coronary arteries.
 
Total calcium score of 0.
CAC Score risk: CAC-DRS 0 (0): very low risk- statin generally 
not recommended
CAC-DRS ___ A0/N0
(A - risk category based on Agatston score / N - number of 
coronary arteries
containing calcifications)
 
CAD-RADS 0- No plaque or stenosis.
 
REFERENCES: Calcium Scoring is reported using the interactive 
___ form
(___) and graded using the 
CAC-DRS
___ (J Cardiovasc Comput Tomogr ___ 
___.
 
CAC-DRS 0 (A0) - Agaston score 0: Very low risk (statin 
generally not
recommended)
CAC-DRS 1 (A1) - Agaston score between ___: Mildly increased 
risk (moderate
intensity statin recommended)
CAC-DRS 2 (A2) - Agaston score between 100-299: Moderately 
increased risk
(moderate to high intensity statin + 81 mg ASA recommended)
CAC-DRS 3 (A3) - Agaston score between >300: Moderately to 
severely increased
risk (high intensity statin + 81 mg ASA recommended)
 
Coronary stenoses are reported as maximum percentage diameter 
stenosis and
graded using the CAD-RADS classification (___ Cardiovasc 
Imaging ___
Sep;9(9):1099-113).
 
CAD-RADS 0: 0%, no stenosis
CAD-RADS 1: ___, minimal stenosis or plaque with no stenosis
CAD-RADS 2: ___, mild stenosis
CAD-RADS 3: 50-69%, moderate stenosis
CAD-RADS 4A: 70-99%, severe stenosis
CAD-RADS 4B: >50% stenosis of the left main or >=70% stenosis of 
the left
anterior descending, the left circumflex, and the right 
coronary, severe
stenosis
CAD-RADS 5: 100%, total occlusion
CAD-RADS N: Non-diagnostic study, obstructive CAD cannot be 
excluded

DISCHARGE LABS
==============
___ 07:12AM BLOOD WBC-6.9 RBC-4.94 Hgb-14.9 Hct-44.8 MCV-91 
MCH-30.2 MCHC-33.3 RDW-12.2 RDWSD-40.3 Plt ___
___ 07:12AM BLOOD ___ PTT-32.7 ___
___ 07:12AM BLOOD Glucose-94 UreaN-13 Creat-0.8 Na-138 
K-4.6 Cl-100 HCO3-23 AnGap-15
___ 07:12AM BLOOD Calcium-9.5 Phos-4.9* Mg-2.3
 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
Discharge wt: 212.52 lb
Discharge Cr: 0.8
New medications: metoprolol succinate XL 25mg daily, lisinopril 
2.5mg daily

[] TTE with one month cardiology follow up
[] consider downgrading metoprolol and/or lisinopril if 
resolution of wall motion abnormality 
[] consider workup for elevated INR, 1.3 on discharge; unlikely 
to be related to cardiac presentation 
[] find out if patient actually had CVA in the past; documented 
but patient does not recall. Could be risk for hypercoagulable 
state if this was the cause
[] counsel on avoidance of substances that could induce 
vasospasm (negative utox here and denies substances)
[] f/u Chagas antibody 

# CODE: full presumed
# CONTACT: ___ (Wife) ___ 

___, ___ man with no PMH who 
presented with chest pain, nausea, SOB to CHA, found to have 
inferolateral ST depressions and elevated troponins, and was 
transferred with concern for NSTEMI. Found to have regional wall 
motion abnormalities inferiorly on TTE with EF 41%. CTA with no 
evidence of coronary disease or coronary anatomical 
abnormalities. 

# NSTEMI, unclear etiology: 
Patient presented with EKG showing evidence of regional ischemia 
with infero-lateral ST depressions and TWI, although this 
resolved on EKG in our ED. Trop I 0.3->0.8, to trop T 0.07, 
subtle regional wall motion abnormality on TTE. Differential for 
chest pain with elevated troponins in this patient includes ACS 
although less likely given age and lack of comorbidities/family 
history; coronary vasospasm although utox negative; coronary 
dissection, acute myocarditis and myopericarditis although no 
viral prodrome or ingestions and without pleuritic sx or 
consistent EKG changes. Potentially also secondary to PE iso 
sinus tachycardia although ddimer 440. Inferior wall motion 
abnormalities found on echo. Another possibility is Chagas 
disease as patient is from ___ but the presentation would be 
unusual for this condition as well. CTA coronaries with CAC 
score of 0 (no epicardial coronary disease), and no evidence of 
acute coronary abnormalities including dissection. Overall most 
consistent with myocarditis. Stopped primary prevention aspirin. 
Can consider outpt CMR and will need repeat TTE. 

# HF borderline EF:
On TTE, EF is 41%. Warm on exam, euvolemic. Well-appearing. Will 
optimize medications associated with decreased mortality in 
heart failure and prevent adverse remodeling of damaged 
myocardium. Started lisinopril 2.5 mg daily, metoprolol 
succinate 25 mg daily. Will repeat TTE in 4 months.
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Lisinopril 2.5 mg PO DAILY  
2.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Non-ST elevation myocardial infarction, unclear etiology
Reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

WHY YOU WERE HERE
- You had chest pain and shortness of breath

WHAT WE DID FOR YOU
- You were found to have evidence of damage to your heart but 
this got better
- You had an ultrasound of your heart that showed decrease in 
pumping function of one part of your heart
- You had a cat scan that showed no blockages of your heart 
vessels or damage to the vessel that supply your heart. This was 
reassuring
- We are not sure what caused your chest pain but sometimes 
blood vessels can "spasm" and temporarily cause issues that go 
away

WHAT YOU SHOULD DO WHEN YOU LEAVE
- You will need to take two new medications to protect your 
heart
- You will need to follow up with a cardiologist as below
- If you are having chest pain, shortness of breath, 
palpitations, dizziness, or any other symptoms that concern you 
please call the doctor or go to the emergency room!

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___